2144-11-24 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt did well on NC off bipap throughout day, but early afternoon noted
   to have increased work of breathing, put on bipap for rest.  Family
   came to visit and patinet became aggitated and tachypnic, family asked
   to leave.  Good effect with 0.5mg IV morphine, and taken off bipap for
   most of the night.  Inceased aggitation overnight, put back on bipap
   after 10 NC.
   -- spoke to PCP, [**Name10 (NameIs) **] [**Name Initial (NameIs) **]/ frequent COPD exacerbation with very severe
   [**First Name9 (NamePattern2) 10209**] [**Doctor Last Name **] HCC. Very short of breath at baseline doing light
   activities..  Using nebs tid.  fvc 1.4 (40%) FEV1 (34%) ration of 56%.
   Should be on home O2, but not using.  If discharged to rehab, should go
   to [**Hospital **] Health care center.
   --DFA negative
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2144-11-23**] 08:00 PM
   Lorazepam (Ativan) - [**2144-11-24**] 06:00 AM
   Morphine Sulfate - [**2144-11-24**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-24**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 121 (87 - 136) bpm
   BP: 107/60(71) {103/52(70) - 152/84(100)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                    530 mL
                                                                     77 mL
   PO:
                                                                    290 mL
             TF:
   IVF:
                                                                     40 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    600 mL
   Urine:
                                                                    600 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -70 mL
                                                                   -523 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 337 (221 - 1,039) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 21%
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.39/47/101/28/2
   Ve: 9.2 L/min
   PaO2 / FiO2: 481
   Physical Examination
   General Appearance: Well nourished, Thin, mild distress with BIPAP mask
   on
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, irregular.
   distant heart sounds in the setting of wheezing
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   bilateral, Diminished: bilateral), diminished throughout with scattered
   wheezes
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, venous stasis changes bilaterally
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   308 K/uL
   12.2 g/dL
   136 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.6 mEq/L
   21 mg/dL
   97 mEq/L
   137 mEq/L
   36.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2144-11-23**]  02:45 AM
                             [**2144-11-23**]  04:45 AM
                             [**2144-11-23**]  02:53 PM
                             [**2144-11-24**]  03:31 AM
   WBC
   8.6
   6.5
   Hct
   40.7
   36.7
   Plt
   323
   308
   Cr
   0.9
   1.0
   TCO2
   33
   30
   Glucose
   118
   136
   Other labs: PT / PTT / INR:57.5/41.7/6.5, Ca++:8.9 mg/dL, Mg++:2.4
   mg/dL, PO4:3.1 mg/dL
   Microbiology:  Negative for Respiratory Viral Antigen.
   Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A, B,
   and RSV by immunofluorescence.  Refer to respiratory viral culture for
   further information.
    Sputum Culture:     [**9-13**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
   Assessment and Plan
   80 yo male with COPD, Afib, HTN, who presents with dyspnea and wheezing
   # Dyspnea/Wheezing: most likely COPD exacerbation. No clear inciting
   event.  Possibly underlying infectious etiology though CXR clear
   without any gross focal infiltrate.  Other possibility includes viral
   illness for trigger.  This also could be PE, though symptoms largely
   improved with nebulizers and steroid therapy, which makes this less
   likely and patient's INR is supratherapeutic.   Currently tolerating
   BIPAP with little reserve
   - cont steroid- solulmedrol 60 mg IV q8H for now, will plan to switch
   to prednisone tomorrow with an extended taper
   - cont albuterol Q4H and ipratroprium Q6H with albuterol Q2H PRN
   - cont NC, but use BiPAP if shows signs of fatigue
   - f/u final CXR read
   - sputum cx with GPCs, f/u final speciation, holding off broadiening
   for now; DFA negative
   - cont levofloxacin 750 mg daily x 5 days for now.  Cont IV for now
   give, and reassess ability to take PO meds
   - can home lasix at IV equivalent, no e/o HF and BNP normal.
   # Atrial Fibrillation: currently on warfarin, though supratherapeutic.
   - cont verapamil and digoxin- unable to tolerate PO meds well this
   morning; start dilt gtt for rate control and switch back to verapamil
   when tolerates
   - hold warfarin for now, gave 1.5mg vit K; goal INR [**12-23**]
   # Hyperlipidemia: cont simvastatin
   # s/p MI: no current CP or concerning ischemic ECG changes.  No prior
   available for comparision
   - cont simvastatin, verapamil, and imdur
   - patient is not on ASA as outpatient, unclear why
   - cont warfarin as above
   - cont furosemide
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-11-23**] 04:37 AM
   Prophylaxis:
   DVT: systemically anticoagulated.
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2144-11-24 11:11:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Respiratory failure/COPD exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -tolerating significant periods of time off of bipap
   -feeling much better today
   -PCP [**Name (NI) 1850**] for history/severity of COPD
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2144-11-24**] 09:10 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2144-11-24**] 06:00 AM
   Morphine Sulfate - [**2144-11-24**] 06:00 AM
   Furosemide (Lasix) - [**2144-11-24**] 09:00 AM
   Diltiazem - [**2144-11-24**] 09:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2144-11-24**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.7
   HR: 102 (87 - 121) bpm
   BP: 136/74(87) {103/52(70) - 152/82(87)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                    530 mL
                                                                    204 mL
   PO:
                                                                    290 mL
             TF:
   IVF:
                                                                     40 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    600 mL
   Urine:
                                                                    600 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -70 mL
                                                                   -397 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 337 (337 - 1,039) mL
   PS : 12 cmH2O
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 21%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.39/47/101/28/2
   Ve: 9.2 L/min
   PaO2 / FiO2: 481
   Physical Examination
   General Appearance: Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: ), prolonged
   expiratory phase
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   308 K/uL
   136 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.6 mEq/L
   21 mg/dL
   97 mEq/L
   137 mEq/L
   36.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2144-11-23**]  02:45 AM
                             [**2144-11-23**]  04:45 AM
                             [**2144-11-23**]  02:53 PM
                             [**2144-11-24**]  03:31 AM
   WBC
   8.6
   6.5
   Hct
   40.7
   36.7
   Plt
   323
   308
   Cr
   0.9
   1.0
   TCO2
   33
   30
   Glucose
   118
   136
   Other labs: PT / PTT / INR:57.5/41.7/6.5, Ca++:8.9 mg/dL, Mg++:2.4
   mg/dL, PO4:3.1 mg/dL
   Microbiology: 1+GPCs sputum
   Assessment and Plan
 Respiratory failure
   -respiratory failure resolved
   -COPD exacerbation/tracheobronchitis most likely etiology
   -PE unlikely given supratherapeutic INR
   -SCx and r/o influenza pending
   -cont MDIs
   -sup O2 as needed to keep sat >88%

COPD
   -per report on inhaled steroid, bronchodilators, home O2 at baseline
   -bicarb at admission only mildly elevated and CO2 elevation modest.
   Doubt that is a significant chronic retainer
   -moving more air on exam today.  No wheezing
   -pt admits to still smoking 'occasionally'
Atrial fibrillation
   -hold coumadin to allow INR to trend down
   -dilt drip.  transition to PO dilt.
Cardiac
   -RBBB on EKG.
Ready for floor bed once on PO dilt
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-11-23**] 04:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :Transfer to floor
   Total time spent:

2144-11-25 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - did well on room air in morning, abg obtained with doppler:
   7.46/48/60
   - failed S&S -> npo
   - went back on bipap intermittently during day. cxr with ?effusions,
   got lasix 40 iv
   - got very agitated overnight and kept on bipap, required haldol 1mg +
   2.5mg x 2, zyprexa 10 x 1, abg (may have been venous) 7.36/57/45.  Was
   on bipap machine at time with 2L O2 so increased fio2; then tried
   ventilator but mask very uncomfortable, couldn't tolerate; placed back
   on bipap machine
   - calmed down after foley placed -> 400 cc urine
   - EKG unchanged
   - changed verapamil to short-acting and increased dose for poorly
   controlled afib
   - repeat gas this a.m. on bipap 16/8: 7.41/49/70
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2144-11-24**] 09:10 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Diltiazem - [**2144-11-24**] 09:24 AM
   Lorazepam (Ativan) - [**2144-11-24**] 08:30 PM
   Furosemide (Lasix) - [**2144-11-24**] 10:00 PM
   Haloperidol (Haldol) - [**2144-11-25**] 12:55 AM
   Morphine Sulfate - [**2144-11-25**] 02:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-25**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 89 (89 - 124) bpm
   BP: 117/63(90) {103/60(70) - 160/83(98)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.7 kg (admission): 59.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,130 mL
                                                                     63 mL
   PO:
             TF:
   IVF:
                                                                  1,130 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    645 mL
   Urine:
                                                                  1,350 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -220 mL
                                                                   -582 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 446 (446 - 844) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 21%
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.41/49/70/28/4
   Ve: 9.5 L/min
   PaO2 / FiO2: 333
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   261 K/uL
   12.9 g/dL
   134 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.3 mEq/L
   25 mg/dL
   99 mEq/L
   139 mEq/L
   38.7 %
   15.8 K/uL
        [image002.jpg]
                             [**2144-11-23**]  02:45 AM
                             [**2144-11-23**]  04:45 AM
                             [**2144-11-23**]  02:53 PM
                             [**2144-11-24**]  03:31 AM
                             [**2144-11-24**]  11:37 AM
                             [**2144-11-25**]  01:37 AM
                             [**2144-11-25**]  01:52 AM
                             [**2144-11-25**]  07:03 AM
   WBC
   8.6
   6.5
   15.8
   Hct
   40.7
   36.7
   38.7
   Plt
   [**Telephone/Fax (3) 10244**]
   Cr
   0.9
   1.0
   1.2
   TropT
   <0.01
   TCO2
   33
   30
   35
   34
   32
   Glucose
   118
   136
   134
   Other labs: PT / PTT / INR:52.5/38.4/5.8, CK / CKMB /
   Troponin-T:353/9/<0.01, Lactic Acid:1.4 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR [**2143-11-25**]:
   Hyperinflation of the lung, consistent with history of COPD. No acute
   cardiopulmonary abnormality.
   Assessment and Plan
   80 yo male with COPD, Afib, HTN, who presents with dyspnea and wheezing
   # Dyspnea/Wheezing: most likely COPD exacerbation. No clear inciting
   event.  Possibly underlying infectious etiology though CXR clear
   without any gross focal infiltrate.  Other possibility includes viral
   illness for trigger.  This also could be PE, though symptoms largely
   improved with nebulizers and steroid therapy, which makes this less
   likely and patient's INR is supratherapeutic.   Currently tolerating
   BIPAP with little reserve
   -- will begin steroid taper today
   - cont albuterol Q4H and ipratroprium Q6H with albuterol Q2H PRN
   - cont NC, but use BiPAP if shows signs of fatigue
   - sputum cx with GPCs but sparse growth, no need for abx expansion at
   this time.
   - cont levofloxacin 750 mg daily x 5 days for now.  Cont IV for now
   give, and reassess ability to take PO meds
   - cont home lasix at IV equivalent, no e/o HF and BNP normal.
   - olanzapine for agitation
   # Atrial Fibrillation: currently on warfarin, though supratherapeutic.
   - cont verapamil and digoxin- unable to tolerate PO meds well this
   morning; start dilt gtt for rate control and switch back to verapamil
   when tolerates
   - hold warfarin for now, trending down, goal INR [**12-23**]
   # Hyperlipidemia: cont simvastatin
   # s/p MI: no current CP or concerning ischemic ECG changes.  No prior
   available for comparision
   - cont simvastatin, verapamil, and imdur
   - patient is not on ASA as outpatient, unclear why
   - cont warfarin as above
   - cont furosemide
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-11-23**] 04:37 AM
   20 Gauge - [**2144-11-24**] 10:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2144-11-25 11:13:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Respiratory failure/COPD exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -failed speach & swallow exam
   -back on bipap
   -agitation overnight
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2144-11-25**] 10:06 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2144-11-24**] 08:30 PM
   Haloperidol (Haldol) - [**2144-11-25**] 12:55 AM
   Morphine Sulfate - [**2144-11-25**] 02:04 AM
   Furosemide (Lasix) - [**2144-11-25**] 09:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, Tachypnea, Wheeze
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2144-11-25**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.4
   HR: 87 (84 - 124) bpm
   BP: 128/61(74) {103/54(65) - 160/83(98)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.7 kg (admission): 59.8 kg
   Height: 64 Inch
             Total In:
                                                                  1,130 mL
                                                                    179 mL
   PO:
             TF:
   IVF:
                                                                  1,130 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    805 mL
   Urine:
                                                                  1,350 mL
                                                                    805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -220 mL
                                                                   -626 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 446 (446 - 844) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 21%
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: 7.41/49/70/28/4
   Ve: 9.5 L/min
   PaO2 / FiO2: 333
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Diminished: ),
   prolonged exp phase
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   261 K/uL
   134 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.3 mEq/L
   25 mg/dL
   99 mEq/L
   139 mEq/L
   38.7 %
   15.8 K/uL
        [image002.jpg]
                             [**2144-11-23**]  02:45 AM
                             [**2144-11-23**]  04:45 AM
                             [**2144-11-23**]  02:53 PM
                             [**2144-11-24**]  03:31 AM
                             [**2144-11-24**]  11:37 AM
                             [**2144-11-25**]  01:37 AM
                             [**2144-11-25**]  01:52 AM
                             [**2144-11-25**]  07:03 AM
   WBC
   8.6
   6.5
   15.8
   Hct
   40.7
   36.7
   38.7
   Plt
   [**Telephone/Fax (3) 10244**]
   Cr
   0.9
   1.0
   1.2
   TropT
   <0.01
   TCO2
   33
   30
   35
   34
   32
   Glucose
   118
   136
   134
   Other labs: PT / PTT / INR:52.5/38.4/5.8, CK / CKMB /
   Troponin-T:353/9/<0.01, Lactic Acid:1.4 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 Respiratory failure
   -respiratory status worsened yesterday requiring restart of BiPAP -
   though really more in WOB/resp distress rather than by quantitative
   measure.  Sounds more wheezey and [**Month (only) 202**] air movement today so ramp up
   Albuterol nebs today.
   -COPD exacerbation/tracheobronchitis presumed etiology
   -PE unlikely given supratherapeutic INR
   -SCx NGTD - influenza DFA negative
   -cont MDIs/Nebs
   -sup O2 as needed to keep sat >88%
   -trial off Bipap again

COPD
   -per report on inhaled steroid, bronchodilators, home O2 at baseline
   -bicarb at admission only mildly elevated and CO2 elevation modest.
   Doubt that is a significant chronic retainer
   -More wheezing, [**Month (only) 202**] air movement today
   -pt admits to still smoking 'occasionally'
Atrial fibrillation
   -hold coumadin to allow INR to trend down
   -dilt drip.  transition to PO when able.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-11-23**] 04:37 AM
   20 Gauge - [**2144-11-24**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2144-11-26 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   had episodes of bronchospasm, slightly improved with nebulizer
   treatments
   - agitated in the setting of bronchospasm
   - received morphine 2 mg IV x 2, and haldol 2.5 mg IV x 2, then haldol
   5 mg IV x 1 which helped patient sleep and appeared comfortable all
   night
   - discussed with daughter [**Name (NI) 10275**] regarding code status- patient had
   expressed previously to her as well that he would want to be Full Code,
   she realizes his lungs are end stage at this point
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2144-11-25**] 10:06 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2144-11-25**] 09:06 AM
   Morphine Sulfate - [**2144-11-26**] 12:00 AM
   Haloperidol (Haldol) - [**2144-11-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-26**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 72 (72 - 107) bpm
   BP: 115/68(78) {90/51(61) - 141/94(107)} mmHg
   RR: 10 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.7 kg (admission): 59.8 kg
   Height: 64 Inch
             Total In:
                                                                    245 mL
                                                                     37 mL
   PO:
             TF:
   IVF:
                                                                    245 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    360 mL
   Urine:
                                                                  1,880 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,635 mL
                                                                   -323 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.40/55/121//7
   PaO2 / FiO2: 576
   Physical Examination
   General Appearance: Thin, Anxious, tachypnic w/ tenuous respiratory
   status
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Wheezes : diffusly), poor air
   movement
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, mild b/l LE erythema stable, old bypass scars
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, sleepy
   Labs / Radiology
   262 K/uL
   13.2 g/dL
   134 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.3 mEq/L
   25 mg/dL
   99 mEq/L
   139 mEq/L
   41.3 %
   13.6 K/uL
        [image002.jpg]
                             [**2144-11-23**]  02:45 AM
                             [**2144-11-23**]  04:45 AM
                             [**2144-11-23**]  02:53 PM
                             [**2144-11-24**]  03:31 AM
                             [**2144-11-24**]  11:37 AM
                             [**2144-11-25**]  01:37 AM
                             [**2144-11-25**]  01:52 AM
                             [**2144-11-25**]  07:03 AM
                             [**2144-11-25**]  06:50 PM
                             [**2144-11-26**]  03:59 AM
   WBC
   8.6
   6.5
   15.8
   13.6
   Hct
   40.7
   36.7
   38.7
   41.3
   Plt
   [**Telephone/Fax (3) 10274**]62
   Cr
   0.9
   1.0
   1.2
   TropT
   <0.01
   TCO2
   33
   30
   35
   34
   32
   35
   Glucose
   118
   136
   134
   Other labs: PT / PTT / INR:41.9/36.1/4.4, CK / CKMB /
   Troponin-T:353/9/<0.01, Lactic Acid:1.4 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   80 yo male with COPD, Afib, HTN, who presents with dyspnea and wheezing
   #Delirum:  Patient anxiety from respiratory distress vs. hypercapnea
   vs. medication induced from ativan/morphine/steroids vs. other
   secondary process.  Seems to be a chronic CO2 retainer, and PCO2 not
   markedly elevated to explain.  No active evidence of infection.  No
   focal neuron deficits.
   -- avoid ativan/morphine
   -- zyprexa or haldol for agitation
   -- ? if patient is developing acute pulm edema from albuterol, will
   switch to xopenex
   --  check TSH, vb12, rpr
   --  NCHCT
   .
   # Dyspnea/Wheezing: most likely COPD exacerbation. No clear inciting
   event.  Possibly underlying infectious etiology though CXR clear
   without any gross focal infiltrate.  Other possibility includes viral
   illness for trigger.  This also could be PE, though symptoms largely
   improved with nebulizers and steroid therapy, which makes this less
   likely and patient's INR is supratherapeutic.   Currently tolerating
   BIPAP with little reserve
   -- cont steroid taper today, but will leave at current dose for
   prolonged taper
   - cont xopenex Q4H and ipratroprium Q6H with xopenex Q2H PRN
   - cont NC, but use BiPAP if shows signs of fatigue
   - sputum cx with GPCs but sparse growth, no need for abx expansion at
   this time.
   - cont levofloxacin 750 mg daily x 5 days for now (day [**1-22**]).  Cont IV
   for now give, and reassess ability to take PO meds
   - cont home lasix at IV equivalent, no e/o HF and BNP normal.
   - olanzapine for agitation
   # Atrial Fibrillation: currently on warfarin, though supratherapeutic.
   - cont verapamil and digoxin- unable to tolerate PO meds well this
   morning; start dilt gtt for rate control and switch back to verapamil
   w/ NGT placement
   - hold warfarin for now, trending down, goal INR [**12-23**]
   # Hyperlipidemia: cont simvastatin
   # s/p MI: no current CP or concerning ischemic ECG changes.  No prior
   available for comparision
   - cont simvastatin, verapamil, and imdur
   - patient is not on ASA as outpatient, unclear why
   - cont warfarin as above
   - cont furosemide
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-11-23**] 04:37 AM
   20 Gauge - [**2144-11-25**] 05:21 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin, supertherapeutic)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code; will need to readdress today with family
   Disposition: call out to floor once off dilt gtt, will need pulm rehab

2144-11-26 09:00:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Respiratory failure/COPD exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   -more episodes of agitation/bronchospasm
   -treated with morphine, haldol, xopenex with improvement of symptoms
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2144-11-25**] 10:06 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2144-11-25**] 09:06 AM
   Morphine Sulfate - [**2144-11-26**] 12:00 AM
   Haloperidol (Haldol) - [**2144-11-26**] 12:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-26**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 82 (72 - 107) bpm
   BP: 124/67(81) {90/51(61) - 141/94(107)} mmHg
   RR: 13 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.7 kg (admission): 59.8 kg
   Height: 64 Inch
             Total In:
                                                                    245 mL
                                                                     44 mL
   PO:
             TF:
   IVF:
                                                                    245 mL
                                                                     44 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    400 mL
   Urine:
                                                                  1,880 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,635 mL
                                                                   -356 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.40/55/121/31/7
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : sig reduced from
   yesterday, Diminished: diffusely), prolonged exp phase
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.2 g/dL
   262 K/uL
   105 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.2 mEq/L
   27 mg/dL
   102 mEq/L
   143 mEq/L
   41.3 %
   13.6 K/uL
        [image002.jpg]
                             [**2144-11-23**]  02:45 AM
                             [**2144-11-23**]  04:45 AM
                             [**2144-11-23**]  02:53 PM
                             [**2144-11-24**]  03:31 AM
                             [**2144-11-24**]  11:37 AM
                             [**2144-11-25**]  01:37 AM
                             [**2144-11-25**]  01:52 AM
                             [**2144-11-25**]  07:03 AM
                             [**2144-11-25**]  06:50 PM
                             [**2144-11-26**]  03:59 AM
   WBC
   8.6
   6.5
   15.8
   13.6
   Hct
   40.7
   36.7
   38.7
   41.3
   Plt
   [**Telephone/Fax (3) 10274**]62
   Cr
   0.9
   1.0
   1.2
   1.0
   TropT
   <0.01
   TCO2
   33
   30
   35
   34
   32
   35
   Glucose
   118
   136
   134
   105
   Other labs: PT / PTT / INR:41.9/36.1/4.4, CK / CKMB /
   Troponin-T:353/9/<0.01, Lactic Acid:1.4 mmol/L, Ca++:9.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 Respiratory failure
   -respiratory status improved since yesterday
   -cont Xopenex, atrovent, steroids
   -COPD exacerbation/tracheobronchitis presumed etiology
   -PE unlikely given supratherapeutic INR
   -SCx NGTD - influenza DFA negative
   -cont MDIs/Nebs
   -sup O2 as needed to keep sat >88%

COPD
   -per report on inhaled steroid, bronchodilators, home O2 at baseline
   -bicarb at admission only mildly elevated and CO2 elevation modest.
   Doubt that is a significant chronic retainer
   -More wheezing, [**Month (only) 202**] air movement today
   -pt admits to still smoking 'occasionally' - discuss smoking cessation
Atrial fibrillation
   -rate much better controlled today - in 80s
   -hold coumadin to allow INR to trend down
   -dilt drip.  transition to PO when able.
Sundowning/confusion
   -still somnolent
   -suspect med related but get CT head to r/o bleed, other IC pathology
   which  could explain
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-11-23**] 04:37 AM
   20 Gauge - [**2144-11-25**] 05:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2144-11-27 10:25:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Respiratory failure/COPD exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Speach & swallow eval - able to handle pills
   -cont waxing & [**Doctor Last Name 282**] responsiveness/agitation with bronchospasm,
   dyspnea
       -improves with morphine, xopenex
       -worse at night - sundowning component
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Ace Inhibitors
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2144-11-25**] 10:06 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2144-11-26**] 07:03 PM
   Morphine Sulfate - [**2144-11-26**] 08:41 PM
   Furosemide (Lasix) - [**2144-11-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-27**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.4
C (95.8
   HR: 104 (81 - 127) bpm
   BP: 115/72(82) {96/63(69) - 128/81(121)} mmHg
   RR: 14 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.7 kg (admission): 59.8 kg
   Height: 64 Inch
                  Total In:
                                                                    523 mL
                                                                    200 mL
   PO:
                                                                    460 mL
                                                                    200 mL
   TF:
   IVF:
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    725 mL
   Urine:
                                                                  1,265 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -742 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 97%
   ABG: ///36/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : exp, Diminished: ),
   prolonged exp phase
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, year, President, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   261 K/uL
   135 mg/dL
   1.0 mg/dL
   36 mEq/L
   4.0 mEq/L
   30 mg/dL
   103 mEq/L
   145 mEq/L
   37.2 %
   9.9 K/uL
        [image002.jpg]
                             [**2144-11-23**]  04:45 AM
                             [**2144-11-23**]  02:53 PM
                             [**2144-11-24**]  03:31 AM
                             [**2144-11-24**]  11:37 AM
                             [**2144-11-25**]  01:37 AM
                             [**2144-11-25**]  01:52 AM
                             [**2144-11-25**]  07:03 AM
                             [**2144-11-25**]  06:50 PM
                             [**2144-11-26**]  03:59 AM
                             [**2144-11-27**]  04:13 AM
   WBC
   8.6
   6.5
   15.8
   13.6
   9.9
   Hct
   40.7
   36.7
   38.7
   41.3
   37.2
   Plt
   [**Telephone/Fax (3) 10274**]62
   261
   Cr
   0.9
   1.0
   1.2
   1.0
   1.0
   TropT
   <0.01
   TCO2
   30
   35
   34
   32
   35
   Glucose
   118
   136
   134
   105
   135
   Other labs: PT / PTT / INR:40.9/35.3/4.3, CK / CKMB /
   Troponin-T:353/9/<0.01, Lactic Acid:1.4 mmol/L, Ca++:9.1 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 Respiratory failure
   -respiratory status unchanged from yesterday
   -cont Xopenex, atrovent, steroids
   -COPD exacerbation/tracheobronchitis presumed etiology
   -PE unlikely given supratherapeutic INR
   -SCx NGTD - influenza DFA negative
   -cont MDIs/Nebs
   -sup O2 as needed to keep sat >88%
COPD
   -per report on inhaled steroid, bronchodilators, home O2 at baseline
   -bicarb at admission only mildly elevated and CO2 elevation modest.
   Doubt that is a significant chronic retainer
   -More wheezing, [**Month (only) 202**] air movement today
   -pt admits to still smoking 'occasionally' - discuss smoking cessation
Atrial fibrillation
   -rate a bit higher today 110s
   -hold coumadin to allow INR to trend down
   -able to wean off dilt drip to PO meds
Sundowning/confusion
   -more clear this morning
   -CT head r/o bleed, multiple old infarcts.  nothing acute
   -Suspect med related / sundowning
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-11-23**] 04:37 AM
   20 Gauge - [**2144-11-26**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: